US07723286B2
a) Synthesis of cis-4,4-dimethyl-2-(4-pentenoyl)cyclohexyl benzoate
Benzoyl chloride (12.8 g, 91 mmoles) was added dropwise to a stirred solution of 1-(2-hydroxy-5,5-dimethyl-1-cyclohexyl)-4-penten-1-one (16 g, 75 mmoles), Et3N (10 g, 99 mmoles) and DMAP (1.8 g, 15 mmoles) in CH2Cl2 (380 ml) at 20° C. and under nitrogen. The solution was heated at 45° C. during 22 hours, cooled to room temperature and washed successively with 5% aqueous HCl, 10% aqueous Na2CO3, and again with water. The organic phase was dried over Na2SO4 and concentrated to afford a brown oil. Chromatography (SiO2, AcOEt/Cyclohexane 1:9) and afforded 6.7 g of the title compound (yield=28%).

reactant | Benzoyl chloride | 91 mmoles, 12.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(2-hydroxy-5,5-dimethyl-1-cyclohexyl)-4-penten-1-one | 75 mmoles, 16 g | OC1C(CC(CC1)(C)C)C(CCC=C)=O | C13H22O2
reactant | Et3N | 99 mmoles, 10 g | CCN(CC)CC | C6H15N
reactant | AcOEt Cyclohexane | CCOC(=O)C.C1CCCCC1
catalyst | DMAP | 15 mmoles, 1.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 380 ml | C(Cl)Cl | CH2Cl2
product | cis-4,4-dimethyl-2-(4-pentenoyl)cyclohexyl benzoate | 6.7 g, yield=28% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H](CC(CC1)(C)C)C(CCC=C)=O | C20H26O3
